US05969139
A solution of 168 mg of 3-hydroxybenzaldehyde dimethyl acetal in 2 ml of anhydrous dimethylformamide was stirred under nitrogen and 220 mg of potassium tert.butoxide were added. The mixture was heated at 60° C. for 1 hour, then cooled to room temperature and 114 mg of 2-chloropyrimidine were added in portions. The mixture was heated at 150° C. for 20 hours. After cooling 20 ml of water were added and the product was extracted with ethyl acetate. The extracts were washed with 10 ml of 1M sodium hydroxide solution and 5 ml of brine and then dried over anhydrous magnesium sulphate. After filtration and evaporation of the filtrate the residual brown gum was purified by column chromatography on silica gel using ethyl acetate/hexane (1:1) for the elution to give 3-(2-pyrimidinyloxy)-benzaldehyde dimethyl acetal as a syrup.

reactant | 3-hydroxybenzaldehyde dimethyl acetal | 168 mg | COC(C1=CC(=CC=C1)O)OC | C9H12O3
reactant | potassium tert.butoxide | 220 mg | CC(C)([O-])C.[K+]
reactant | 2-chloropyrimidine | 114 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(2-pyrimidinyloxy)-benzaldehyde dimethyl acetal | COC(C1=CC(=CC=C1)OC1=NC=CC=N1)OC | C13H14N2O3
